* C:\Users\Abril\Documents\GitHub\ASSD-2020-G4\TP1 - Muestreo\SH\sh.asc
XU1 IN V4 0 -vcc N001 OUT +vcc LF398H
C1 N001 0 75p
V1 +vcc 0 +10
V2 -vcc 0 -10
V3 IN 0 SINE(0 5 980k 0 0 01000)
V4 V4 0 PULSE(0 6 0.01n 0.1n 0.1n 104n 208n)
.tran 0 3u 0 1
.include LF398.sub
.backanno
.end
